US04148997
p-Sulfomethylphenylacetic Acid
To a boiling aqueous solution of sodium bisulfite (1.47 g, 0.0141 mole) is added in portions p-chloromethylphenylacetic acid (2.6 g, 0.0141 mole). The solution is further refluxed for 30 minutes and is then evaporated to dryness to give a quantitative yield of the title compound.

reactant | sodium bisulfite | 0.0141 mole, 1.47 g | S([O-])(O)=O.[Na+]
reactant | p-chloromethylphenylacetic acid | 0.0141 mole, 2.6 g | ClCC1=CC=C(C=C1)CC(=O)O | C9H9ClO2
product | p-Sulfomethylphenylacetic Acid | quantitative yield | S(=O)(=O)(O)CC1=CC=C(C=C1)CC(=O)O | C9H10O5S
